US09337358B2
To a mixture of 3-bromothiophene (81.5 g, 0.5 mol) and [1,3-bis(diphenylphosphino)propane]-dichloronickel(II) (dppp) in 300 mL of dry ethyl ether, tetradecylmagnesium bromide (560 mL, 0.56 mol) was added dropwise. The mixture was then refluxed overnight and cooled in an ice bath. A 5% HCl solution was added to destroy the unreacted Grignard reagents. The organic layer was separated from the water layer in a separation funnel. The ether solution was then washed with NaHCO3 solution (100 mL), brine (2×100 mL), and water (100 mL) and dried over anhydrous MgSO4. After the ether was removed, the organic residue was vacuum distilled (101° C./3 mmHg) to give 3-tetradecylthiophene: 85 g, yield 75.9%. 1H NMR: ä 7.23 (m, 1H), 6.93 (m, 1H), 2.62 (t, 2H), 1.64-1.26 (m, 16H), 0.88 (t, 3H).

reactant | 3-bromothiophene | 0.5 mol, 81.5 g | BrC1=CSC=C1 | C4H3BrS
reactant | tetradecylmagnesium bromide | 0.56 mol, 560 mL | C(CCCCCCCCCCCCC)[Mg]Br
reactant | HCl | Cl | ClH
solvent | ethyl ether | 300 mL | C(C)OCC | C4H10O
catalyst | [1,3-bis(diphenylphosphino)propane]-dichloronickel(II) | Cl[Ni]Cl.C1(=CC=CC=C1)P(CCCP(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1
product | 3-tetradecylthiophene | yield 75.9% | C(CCCCCCCCCCCCC)C1=CSC=C1 | C18H32S
